US05019655
Preparation of 4-(3',4'-dichlorophenyl)-3,4-dihydro-1-(2H)-naphthalenone
In a solution of 100 g (0.374 mole) of anhydrous aluminium bromide in 130 ml of orthodichlorobenzene, 28 g (0.194 mole) of α-naphthol are added. The green solution obtained is heated for 1 hour at 65° C. then hydrolysed with 400 ml of water at 40° C. After decantation, the organic phase is separated which is concentrated under a vacuum. After crystallization of the residue in 140 ml of methanol at 0° C. for 2 hours, 45 g of the expected compound are obtained after filtration and drying.

reactant | aluminium bromide | 0.374 mole, 100 g | [Br-].[Al+3].[Br-].[Br-]
reactant | α-naphthol | 0.194 mole, 28 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | water | 400 ml | O | H2O
reactant | orthodichlorobenzene | 130 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-(3',4'-dichlorophenyl)-3,4-dihydro-1-(2H)-naphthalenone | 45 g, Yield: 79.6% | ClC=1C=C(C=CC1Cl)C1CCC(C2=CC=CC=C12)=O | C16H12Cl2O
